US07906503B2
Step 3 3-((4-chlorophenyl){3-[1-(3,5-difluorophenyl)-2,2-dimethylpropylidene]azetidin-1-yl}methyl)benzonitrile
A mixture of 99 mg (0.32 mmol) of 3-[bromo(4-chlorophenyl)methyl]benzonitrile, 80 mg (0.216 mmol) of 3-[1-(3,5-difluorophenyl)-2,2-dimethylpropylidene]azetidine and 113 uL (0.65 mmol) of N,N-diisopropylethylamine in 3 mL of acetonitrile was heated at reflux for 3 h. Then the reaction was concentrated and the residue was dissolved in 5 ml of hexane/ether. A solution of 1 mL of 1N HCl in ether was added to above solution to make the salt. The mixture was filtered and the solids were washed with hexane/ether. The residue was neutralized with NaOH and the free base was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound as a white solid; 1H-NMR (CDCl3) δ 1.07 (s, 9H), 3.37 (m, 2H), 4.06 (m, 2H), 4.50 (s, 1H), 6.58 (d, J=8 Hz, 2H), 6.74 (m, 1H), 7.28 (d, J=8.5 Hz, 2H), 7.34 (d, J=8.5 Hz, 2H), 7.39 (t, J=7.7 Hz, 1H), 7.50 (d, J=7.8 Hz, 1H), 7.62 (d, J=7.8 Hz, 1H), 7.72 (s, 1H); Mass Spectrum: m/e=463 (M+1 35Cl) and 465 (M+1 37Cl).

reactant | 3-[bromo(4-chlorophenyl)methyl]benzonitrile | 0.32 mmol, 99 mg | BrC(C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C14H9BrClN
reactant | 3-[1-(3,5-difluorophenyl)-2,2-dimethylpropylidene]azetidine | 0.216 mmol, 80 mg | FC=1C=C(C=C(C1)F)C(C(C)(C)C)=C1CNC1 | C14H17F2N
reactant | N,N-diisopropylethylamine | 0.65 mmol, 113 uL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-((4-chlorophenyl){3-[1-(3,5-difluorophenyl)-2,2-dimethylpropylidene]azetidin-1-yl}methyl)benzonitrile | ClC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)N1CC(C1)=C(C(C)(C)C)C1=CC(=CC(=C1)F)F | C28H25ClF2N2
